* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : nand2                                        *
* Netlisted  : Thu Apr  4 22:22:22 2024                     *
* Pegasus Version: 21.32-s016 Wed Nov 9 21:23:04 PST 2022   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 R(res_generic_m1) met1_res met1(P) met1(N)
*.DEVTMPLT 1 R(res_generic_m2) met2_res met2(P) met2(N)
*.DEVTMPLT 2 R(res_generic_m3) met3_res met3(P) met3(N)
*.DEVTMPLT 3 R(res_generic_m4) met4_res met4(P) met4(N)
*.DEVTMPLT 4 R(res_generic_m5) met5_res met5(P) met5(N)
*.DEVTMPLT 5 R(RES_GENERIC_ND) diff_res np_term(P) np_term(N)
*.DEVTMPLT 6 R(RES_GENERIC_PD) diff_res pp_term(P) pp_term(N)
*.DEVTMPLT 7 MN(nfet_01v8) nfet_01v8_rec nSourceDrain(D) nfet(G) nSourceDrain(S) pwell(B)
*.DEVTMPLT 8 MP(pfet_01v8) pfet_01v8_rec pSourceDrain(D) pfet(G) pSourceDrain(S) nwell(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: polyConn_CDNS_1                                 *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt polyConn_CDNS_1 1
** N=2 EP=1 FDC=0
.ends polyConn_CDNS_1

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nwellTap_CDNS_2                                 *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nwellTap_CDNS_2 1
** N=3 EP=1 FDC=0
.ends nwellTap_CDNS_2

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: subTap_CDNS_3                                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt subTap_CDNS_3 1
** N=3 EP=1 FDC=0
.ends subTap_CDNS_3

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pfet_01v8_CDNS_5                                *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pfet_01v8_CDNS_5 1 2 3
** N=5 EP=3 FDC=1
M0 2 3 1 1 pfet_01v8 L=1.5e-07 W=7.8e-07 $X=0 $Y=0 $dt=8
.ends pfet_01v8_CDNS_5

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8_CDNS_6                                *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8_CDNS_6 1 2 3 4
** N=6 EP=4 FDC=1
M0 2 3 1 4 nfet_01v8 L=1.5e-07 W=7.8e-07 $X=0 $Y=0 $dt=7
.ends nfet_01v8_CDNS_6

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8_CDNS_7                                *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8_CDNS_7 1 2 3 4
** N=5 EP=4 FDC=1
M0 2 3 1 1 nfet_01v8 L=1.5e-07 W=7.8e-07 $X=0 $Y=0 $dt=7
.ends nfet_01v8_CDNS_7

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pfet_01v8_CDNS_8                                *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pfet_01v8_CDNS_8 1 2 3
** N=7 EP=3 FDC=1
M0 2 3 1 1 pfet_01v8 L=1.5e-07 W=7.8e-07 $X=0 $Y=0 $dt=8
.ends pfet_01v8_CDNS_8

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nand2                                           *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nand2 a b gnd! vdd! y
** N=11 EP=5 FDC=4
X0 a polyConn_CDNS_1 $T=570 3405 0 0 $X=435 $Y=3240
X1 b polyConn_CDNS_1 $T=1000 2770 0 0 $X=865 $Y=2605
X2 vdd! nwellTap_CDNS_2 $T=785 5975 0 90 $X=220 $Y=5710
X3 gnd! subTap_CDNS_3 $T=785 -5 0 270 $X=275 $Y=-215
X4 vdd! y a pfet_01v8_CDNS_5 $T=645 4680 1 180 $X=50 $Y=4500
X5 6 y b gnd! nfet_01v8_CDNS_6 $T=925 520 0 0 $X=810 $Y=370
X6 gnd! 6 a 7 nfet_01v8_CDNS_7 $T=495 520 0 0 $X=90 $Y=370
X7 vdd! y b pfet_01v8_CDNS_8 $T=925 4680 0 0 $X=520 $Y=4500
.ends nand2
